US08030334B2
A flask is charged with 3,3-dimethyl-azetidin-2-one (0.159 g, 1.524 mmol), aqueous formaldehyde (37% wt., 0.124 g, 1.524 mmol) and crushed potassium carbonate (0.009 g, 0.061 mmol). The flask is lowered in a pre-heated oil bath (75° C.). After 15 min, the flask is removed from the oil bath and allowed to stand at room temperature. After 2 h, the mixture is taken up in acetone, dried over magnesium sulfate and filtered through a plug of silica gel. Concentration in vacuo (30° C., 40 Torr) gives 1-hydroxymethyl-3,3-dimethyl-azetidin-2-one, which is used in the next step without further purification. 1H NMR (400 MHz, CDCl3) δ ppm 1.32 (s, 6H), 3.23 (s, 2H), 4.69 (d, J=7.5 Hz, 2H).

reactant | 3,3-dimethyl-azetidin-2-one | 1.524 mmol, 0.159 g | CC1(C(NC1)=O)C | C5H9NO
reactant | formaldehyde | 1.524 mmol, 0.124 g | C=O | CH2O
reactant | potassium carbonate | 0.061 mmol, 0.009 g | C([O-])([O-])=O.[K+].[K+]
product | 1-hydroxymethyl-3,3-dimethyl-azetidin-2-one | OCN1C(C(C1)(C)C)=O | C6H11NO2
